Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]=[C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:7],4.8162612431300005
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[H:11],5.28552470741
[C:3]([C:4]#[C:5][H:6])[O:7][H:8].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][H:8],-6.939754461910001
[C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.20080267926
[C:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2](/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.79059970916
[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]>>[O:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.98394295288
[C:1].[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-7.42571576329
[C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-5.5158968992
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:12]([C:7][C:8]([H:9])([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C@@:5]1([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-0.05024865207
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.0867356808600002
[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.17363014765
[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.97837369134
[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3][H:4],7.48620881
[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-7.4471677362
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.184008435980002
[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-2.04124950295
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.29292044778
[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-4.593742387330001
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11].[O:1],4.1938089607599975
[C:3]([C:4]([H:5])([H:6])[H:7])([H:9])[H:10].[H:1][C:2]#[C:8][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.23650152622
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:8](\[H:9])[O:10][H:11].[H:7],1.98903526532
[C:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8].[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.64906998091
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7].[H:8]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-1.96143101914
[C:10][H:11].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][H:11],-3.6193508742
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],2.15363466184
[O:1][C:2]([H:3])([H:4])[C:5]1[C:6][O:7]1>>[O:1][C:2]([H:3])([H:4])[C:5]=[C:6]=[O:7],-2.33218278492
[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-2.2750497380400003
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:6],4.94892929076
[H:1][O:2][C:3]([H:4])([H:5])[H:6]>>[H:1][O:2][C:3]([H:4])[H:5].[H:6],4.294511355330002
